US07192950B2
9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene
To a stirred solution of 2-(3,4-dimethoxy-phenyl)-N-[2-(3,4-dimethoxy-phenylsulfanyl)-ethyl]-acetamide (4.0 g, 10.0 mmol) in dry CH3CN (21 ml), was added POCl3 (2.80 ml, 30.0 mmol). The resulting mixture was stirred at reflux for 3 h under nitrogen. After cooling, the reaction mixture was concentrated in vacuo and the residue was dissolved in MeOH (85 ml). The solution was cooled to 0° C. and NaBH4 (2.7 g, 69.0 mmol) was added portionwise, the resulting pale yellow suspension was stirred at RT for 16 h under nitrogen. The reaction mixture was poured into H2O and extracted three times with CH2Cl2. The combined organic phases were dried over anhydrous MgSO4, filtered and concentrated to give a crude oil. Flash chromatography (CH2Cl2/MeOH: 9/1) gave the title product (1.14 g, 27%) as a viscous brown oil.

reactant | 2-(3,4-dimethoxy-phenyl)-N-[2-(3,4-dimethoxy-phenylsulfanyl)-ethyl]-acetamide | 10.0 mmol, 4.0 g | COC=1C=C(C=CC1OC)CC(=O)NCCSC1=CC(=C(C=C1)OC)OC | C20H25NO5S
reactant | POCl3 | 30.0 mmol, 2.80 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | NaBH4 | 69.0 mmol, 2.7 g | [BH4-].[Na+]
reactant | H2O | O | H2O
solvent | CH3CN | 21 ml | CC#N | C2H3N
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 9-(3,4-Dimethoxy-benzyl)-2,3-dimethoxy-6,7,8,9-tetrahydro-5-thia-8-aza-benzocycloheptene | 1.14 g, 27% | COC=1C=C(CC2NCCSC3=C2C=C(C(=C3)OC)OC)C=CC1OC | C20H25NO4S
